US06689922B1
5-{2-[3-(6-Hydroxy-1,6-dimethylhept-1-enyl)phenyl]-vinyl}benzene-1,3-diol
In a manner similar to Example 1(j), by reacting 0.09 ml of concentrated sulphuric acid in 3 ml of THF with 152 mg (0.41 mmol) of 5-{2-[3-(1,6-dihydroxy-1,6-dimethylheptyl)phenyl]vinyl}benzene-1,3-diol in 1.5 ml of THF, after purification on a silica column (ethyl acetate 50-heptane 50), a yellow powder (m=65 mg; Y=45%) is obtained. m.p.=55-60° C.

reactant | sulphuric acid | 0.09 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-{2-[3-(1,6-dihydroxy-1,6-dimethylheptyl)phenyl]vinyl}benzene-1,3-diol | 0.41 mmol, 152 mg | OC(CCCCC(C)(C)O)(C)C=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O | C23H30O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 5-{2-[3-(6-Hydroxy-1,6-dimethylhept-1-enyl)phenyl]-vinyl}benzene-1,3-diol | OC(CCCC=C(C)C=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C23H28O3
